US04089969
A solution of 250 mg. of isopropyl 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate in 8 ml. of methanol is treated under an atmosphere of nitrogen, with a solution of 200 mg. of sodium hydroxide in 1 ml. of water, maintaining the reaction mixture at room temperature for 1.5 hours. The methanol is then removed under reduced pressure and the basic solution which remains is diluted with 5 ml. of water and extracted with ether to remove any unsaponifiable product. The aqueous solution is acidified with 10% hydrochloric acid and extracted three times with ethyl acetate. The combined extracts are dried and evaporated to dryness under reduced pressure, and the residue crystallized from ethyl acetate-hexane, to give 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid, identical to the product obtained in Example 9.

reactant | isopropyl 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCC2C(=O)OC(C)C)C | C19H21NO3
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCC2C(=O)O)C | C16H15NO3
